US06528504B2
(S)-1-(4-Dimethylaminophenethyl)-3-(4-nitrobenzoyloxy)pyrrolidine
Triphenylphosphine (1.72 g, 5.13 mmol) and 4-nitrobenzoic acid (0.86 g, 5.13 mmol) were added to a solution of (R)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine in anhydrous tetrahydrofuran (20 ml) under argon atmosphere. 40% solution (2.32 ml, 5.13 mmol) of diethyl azodicarboxylate in toluene was added dropwise in the obtained mixture under stirring at room temperature. After stirring at room temperature for 2 hours, 60 ml of ether was added to the reaction liquid. The reaction mixture was washed with water, then with saturated aqueous sodium hydrogencarbonate solution and finally with saturated aqueous sodium chloride solution. The organic layer was dried, and the solvent was evaporated under reduced pressure. Ethyl acetate and hexane were added to the obtained residue, and the crystals thus formed were taken by the filtration. The filtrate was evaporated under reduced pressure, and the residue was distributed in dichloromethane and 1 M-HCl. 4M-NaOH was added to the aqueous layer to make it strongly alkaline. After the extraction with dichloromethane, the organic layer was dried and the solvent was distilled under reduced pressure. The residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1), then with a mixture of the same solvents (3:1) and finally with a mixture of the same solvents (1:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow oil (860 mg, 64%).

reactant | Triphenylphosphine | 5.13 mmol, 1.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 5.13 mmol, 0.86 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | (R)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine | CN(C1=CC=C(CCN2C[C@@H](CC2)O)C=C1)C | C14H22N2O
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 60 ml | CCOCC | C4H10O
product | (S)-1-(4-Dimethylaminophenethyl)-3-(4-nitrobenzoyloxy)pyrrolidine | CN(C1=CC=C(CCN2C[C@H](CC2)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1)C | C21H25N3O4
